### PR TITLE
[Merged by Bors] - feat(RepresentationTheory/GroupCohomology/Functoriality): add functoriality

### PR DESCRIPTION
**Pull request by 101damnations**
Given a commutative ring `k`, a group homomorphism `f : G →* H`, a `k`-linear `H`-representation `A`, a `k`-linear `G`-representation `B`, and a representation morphism `Res(f)(A) ⟶ B`, we get a cochain map `inhomogeneousCochains A ⟶ inhomogeneousCochains B` and hence maps on cohomology `Hⁿ(H, A) ⟶ Hⁿ(G, B)`. We also provide extra API for these maps in degrees 0, 1, 2.

In a subsequent PR we will add support for switching resolution.

---

- [x] depends on: #21652 

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/RepresentationTheory/GroupCohomology/Functoriality.lean [hunk 1]
```diff
@@ -0,0 +1,166 @@
...
+    cochainsMap (MonoidHom.id _) (𝟙 A) = 𝟙 (inhomogeneousCochains A) := by
+  rfl
+
+@[simp]
+lemma cochainsMap_id_f_eq_compLeft {A B : Rep k G} (f : A ⟶ B) (i : ℕ) :
+    (cochainsMap (MonoidHom.id G) f).f i = ModuleCat.ofHom (f.hom.hom.compLeft _) := by
+  ext
+  rfl
+
+lemma cochainsMap_comp {G H K : Type u} [Group G] [Group H] [Group K]
```
Comment (joelriou) [inline Mathlib/RepresentationTheory/GroupCohomology/Functoriality.lean:58]:
```suggestion
@[reassoc]
lemma cochainsMap_comp {G H K : Type u} [Group G] [Group H] [Group K]
```

File: Mathlib/RepresentationTheory/GroupCohomology/Functoriality.lean [hunk 2]
```diff
@@ -0,0 +1,166 @@
...
+    {A : Rep k K} {B : Rep k H} {C : Rep k G} (f : H →* K) (g : G →* H)
+    (φ : (Action.res _ f).obj A ⟶ B) (ψ : (Action.res _ g).obj B ⟶ C) :
+    cochainsMap (f.comp g) ((Action.res _ g).map φ ≫ ψ) =
+      cochainsMap f φ ≫ cochainsMap g ψ := by
+  rfl
+
+lemma cochainsMap_id_comp {A B C : Rep k G} (φ : A ⟶ B) (ψ : B ⟶ C) :
```
Comment (joelriou) [inline Mathlib/RepresentationTheory/GroupCohomology/Functoriality.lean:65]:
```suggestion
@[reassoc]
lemma cochainsMap_id_comp {A B C : Rep k G} (φ : A ⟶ B) (ψ : B ⟶ C) :
```

File: Mathlib/RepresentationTheory/GroupCohomology/Functoriality.lean [hunk 3]
```diff
@@ -0,0 +1,166 @@
...
+  simp [cocyclesMap, cochainsMap_id_comp, HomologicalComplex.cyclesMap_comp]
+
+/-- Given a group homomorphism `f : G →* H` and a representation morphism `φ : Res(f)(A) ⟶ B`,
+this is the induced map `Hⁿ(H, A) ⟶ Hⁿ(G, B)` sending `x : Hⁿ → A` to
+`(g : Gⁿ) ↦ φ (x (f ∘ g))`. -/
+noncomputable abbrev map (n : ℕ) :
+    groupCohomology A n ⟶ groupCohomology B n :=
+  HomologicalComplex.homologyMap (cochainsMap f φ) n
+
+theorem map_id_comp {A B C : Rep k G} (φ : A ⟶ B) (ψ : B ⟶ C) (n : ℕ) :
```
Comment (joelriou) [inline Mathlib/RepresentationTheory/GroupCohomology/Functoriality.lean:112]:
```suggestion
@[reassoc]
theorem map_id_comp {A B C : Rep k G} (φ : A ⟶ B) (ψ : B ⟶ C) (n : ℕ) :
```

**Comment by joelriou** [comment]
Thanks!

bors d+

File: Mathlib/RepresentationTheory/GroupCohomology/Functoriality.lean (hunk 3 above)
Comment (101damnations) [reply Mathlib/RepresentationTheory/GroupCohomology/Functoriality.lean:116]: Thanks! I've applied these
